US09278953B2
A solution of crude 2-(6-chloro-2-methoxypyridin-3-yl)propanenitrile (25.9 g, 132 mmol) and tert-butyl 2,2-dioxooxathiazinane-3-carboxylate (45.8 g, 193 mmol) in THF (440 mL), under nitrogen, was cooled in an ice/water bath for 10 min. To this solution was added a solution of KHMDS in THF (1.0 M, 255 mL, 260 mmol) over 25 min, while maintaining internal reaction temperature at or below 20° C. After continued stirring for 15 min and with the cold bath still present, conc. HCl aq. (91 mL) was added cautiously in one portion, and the resulting mixture was stirred for 10 min. The reaction mixture was then heated to reflux for 2.3 h. Cooling with an ice/water bath was commenced, and, when the internal temperature reached 24° C., the reaction was quenched by portionwise addition of a saturated aqueous solution of ammonia (70 mL). Volatile components were removed under reduced pressure, and the residue was partitioned between EtOAc (1.0 L) and 5% (w/v) aq. sodium carbonate (600 mL). The aqueous layer was extracted with EtOAc (500 mL), and the combined organic extracts were dried over Na2SO4 and concentrated under reduced pressure to afford crude residue as a dark red-brown oil (33.84 g). To a solution of the residue (33.3 g) in MeOH (310 mL) was added a 4.5 M aqueous solution of KOH. The reaction was then heated to reflux for 8.5 h. Heating was continued, at this point, with a distillation head for 2.2 h, collecting a total of ca. 175 mL of distillate. Reflux was then resumed for an additional 1.5 h, whereupon it was cooled to r.t. and concentrated under reduced pressure to remove its low-boiling components. Phosphoric acid (85%, 24 mL) was added to the resulting suspension, and solids were collected by vacuum filtration after thorough mixing. This material was washed with several small portions of water and azeotropically dried by evaporation from MeCN to afford a crude 3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one as a tan-brown solid (15.3 g, 46%), which was ca. 90% pure. 1H NMR (600 MHz, CDCl3) δ 1.58-1.64 (m, 1 H), 1.66 (s, 3 H), 1.76-1.82 (m, 1 H), 1.92-2.01 (m, 1H), 2.26 (td, 1 H), 3.35-3.42 (m, 1 H), 3.47 (td, 1 H), 3.97 (s, 3 H), 5.91 (br. s., 1 H), 6.91 (d, 1 H), 7.53 (d, 1 H).

reactant | 2-(6-chloro-2-methoxypyridin-3-yl)propanenitrile | 132 mmol, 25.9 g | ClC1=CC=C(C(=N1)OC)C(C#N)C | C9H9ClN2O
reactant | tert-butyl 2,2-dioxooxathiazinane-3-carboxylate | 193 mmol, 45.8 g | O=S1(OCCCN1C(=O)OC(C)(C)C)=O | C8H15NO5S
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | HCl | 91 mL | Cl | ClH
reactant | KOH | [OH-].[K+]
solvent | THF | 440 mL | C1CCOC1 | C4H8O
solvent | MeOH | 310 mL | CO | CH4O
solvent | THF | 260 mmol, 1.0 M, 255 mL | C1CCOC1 | C4H8O
product | 3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one | 15.3 g, 46% | ClC1=CC=C(C(=N1)OC)C1(C(NCCC1)=O)C | C12H15ClN2O2
